US07285558B2
2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3[l-methyl-4-(trifluoroacetyl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione, and condensing first with 5-chloro-1H-indole-3-carbaldehyde, followed by 1-methyl-4-(trifluoroacetyl)-1H-pyrrole-2-carbaldehyde. Mass: 559.15 (M+H).

reactant | 1-(cyclopropylmethyl)-6-hydrazino-3-methylpyrimidine-2,4(1H,3H)-dione | C1(CC1)CN1C(N(C(C=C1NN)=O)C)=O | C9H14N4O2
reactant | 5-chloro-1H-indole-3-carbaldehyde | ClC=1C=C2C(=CNC2=CC1)C=O | C9H6ClNO
reactant | 1-methyl-4-(trifluoroacetyl)-1H-pyrrole-2-carbaldehyde | CN1C(=CC(=C1)C(C(F)(F)F)=O)C=O | C8H6F3NO2
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-7-(cyclopropylmethyl)-5-methyl-3[l-methyl-4-(trifluoroacetyl)-1H-pyrrol-2-yl]-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=C(C1)C(C(F)(F)F)=O)C)=O)C)=O)CC1CC1 | C26H22ClF3N6O3
